US05114971
1. Synthesis of 11 epi PGF2alpha -1-isopropyl ester
20 mg (0,056 mmol) of 11 epi PGF2alpha (Cayman Chemicals, U.S.) were dissolved in acetone at room temperature. To this solution were added 54.5 mg (0.336 mmol) of diazabicycloundecene (DBu) and 76.15 mg (0.448 mmol) of propyl iodide, whereupon the mixture was left to stand at room temperature for 8 hours. The solvent was removed in vacuo, the residue then being dissolved in 50 ml of ethyl acetate, washed with 20 ml of water, 20 ml of 3% citric acid and 5% sodium hydrogen carbonate; thereafter the organic phase was dried over sodium sulfate. The solvent was removed in vacuo and the residue was purified by means of column chromatography on silica gel, with ethyl acetate-acetone (1:1) as the eluent. The yield of the product was about 76%, and its purity was tested by means of thin layer chromatography and NMR.

reactant | PGF2alpha | CCCCC[C@@H](/C=C/[C@H]1[C@@H](C[C@@H]([C@@H]1C/C=C\CCCC(=O)O)O)O)O | C20H34O5
reactant | diazabicycloundecene | 0.336 mmol, 54.5 mg | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
reactant | propyl iodide | 0.448 mmol, 76.15 mg | C(CC)I | C3H7I
solvent | acetone | CC(=O)C | C3H6O
product | PGF2alpha -1-isopropyl ester | CCCCC[C@@H](/C=C/[C@H]1[C@@H](C[C@@H]([C@@H]1C/C=C\CCCC(=O)OC(C)C)O)O)O | C23H40O5
